US04584132
Synthesis of (S)-N-[1-[[[bis-(Dimethylamino)phoshinyl]amino]carbonyl]-2-oxo-3-azetidinyl]benzeneacetamide
By a procedure analogous to that used in the second part of Example IV, (S)-[1-[[[bis-(dimethylamino)phophinyl]amino]carbonyl]2-oxo-3-azetidinyl]carbamic acid phenylmethyl ester, produced as in the previous Example, is hydrogenated in the presence of 10% Pd on carbon catalyst, and the intermediate thus obtained is acylated by reaction with phenylacetyl chloride and triethylamine to obtain the title compound.

reactant | (S)-[1-[[[bis-(dimethylamino)phophinyl]amino]carbonyl]2-oxo-3-azetidinyl]carbamic acid phenylmethyl ester | C1(=CC=CC=C1)COC(N[C@@H]1C(N(C1)C(=O)NP(=O)(N(C)C)N(C)C)=O)=O | C16H24N5O5P
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
catalyst | Pd on carbon | [Pd] | Pd
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-N-[1-[[[bis-(Dimethylamino)phoshinyl]amino]carbonyl]-2-oxo-3-azetidinyl]benzeneacetamide | CN(C)P(=O)(N(C)C)NC(=O)N1C([C@H](C1)NC(CC1=CC=CC=C1)=O)=O | C16H24N5O4P
